US09255110B2
Acetic anhydride (53 mL, 572.0 mmol) was slowly added to a mixture of 3-aminophenol (25 g, 225.0 mmol) and 4-dimethylaminopyridine (catalytic quantity) in pyridine (100 mL) at 0° C. and the reaction mixture was stirred at room temperature for 62 hours. Water (1 L) was added and the resulting mixture was extracted with ethyl acetate. The organic extracts were washed with an aqueous solution of hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and water, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 21.79 g of acetic acid 3-acetylamino-phenyl ester as a solid without further purifications. A second batch (2.978 g) of this material crashed out of the aqueous layer upon standing and was collected by filtration.

reactant | Acetic anhydride | 572.0 mmol, 53 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-aminophenol | 225.0 mmol, 25 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | Water | 1 L | O | H2O
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | acetic acid 3-acetylamino-phenyl ester | 21.79 g | C(C)(=O)NC=1C=C(C=CC1)OC(C)=O | C10H11NO3
